US05023334
Preparation of methyl [1-(4-pyridinyl)propylidene]carbazate, Compound 93
A solution of 4.05 gm (0.03 mole) of 4-propionylpyridine, 2.70 gm (0.03 mole) of methyl carbazate and 100 ml of absolute ethanol is refluxed 6 hr. The solution is evaporated in vacuo to give a solid. The crude product is crystallized from ethyl acetate/Skellysolve B to yield 3.90 gm (63%) of the title compound having a melting point of 216.2° C. (decomp.).

reactant | 4-propionylpyridine | 0.03 mole, 4.05 gm | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | methyl carbazate | 0.03 mole, 2.70 gm | C(NN)(=O)OC | C2H6N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl [1-(4-pyridinyl)propylidene]carbazate | 3.90 gm, 63% | N1=CC=C(C=C1)C(CC)=NNC(=O)OC | C10H13N3O2
